* C:\Users\alex_\Documents\IKP\HYDRA\HYDRA_VMM3_Adapter\AddOns\spice\PassiveFilter_vs_CKBuffer.asc
R1 N012 N011 50
T1 N012 0 N007 0 Td=0.59n Z0=50
R2 N005 N007 30
R3 N008 N007 30
R4 N015 N007 30
R5 N017 N007 30
R6 N005 0 50
R7 N008 0 50
R8 N015 0 50
R9 N017 0 50
C1 N001 N005 500f
V1 N011 0 PULSE(0 0.15 0.01u 0.5n 0.5n 80n 5u 1000)
R12 N003 N001 100k
C2 N003 N001 333f
XU2 N001 0 N003 opamp Aol=100K GBW=10Meg
R10 N014 N013 50
T2 N014 0 N009 0 Td=0.59n Z0=50
R11 N006 N009 30
R13 N010 N009 30
R14 N016 N009 30
R15 N018 N009 30
R16 N006 0 50
R17 N010 0 50
R18 N016 0 50
R19 N018 0 50
C4 N002 N006 500f
V2 N013 0 PULSE(0 0.15 0.01u 0.5n 0.5n 80n 66u 1000)
R20 N004 N002 100k
C5 N004 N002 333f
XU1 N002 0 N004 opamp Aol=100K GBW=10Meg
C6 0 N004 9.5p
C7 N002 N001 75f
R21 0 N004 1Meg
C8 0 N003 9.5p
R22 0 N003 1Meg
.tran 0.0015
.include C:/Users/alex_/AppData/Local/Programs/ADI/LTspice/lib/sub/opamp.sub
* Oscilloscope probe
* Oscilloscope probe
* capacitive coupling
.backanno
.end
